* C:\Users\bradw\Desktop\UltimateAltium\LT_sim\OBATS_Front_End_Signal_Chain\OBATS_Front_End_Signal_Chain.asc
XU1 N002 N004 5v 0 N003 OP284
V§tmp235 N001 0 0
V§5V_P 5v 0 5
R1 N002 N001 10k
C1 N002 0 1µ
R2 N003 N004 6.5k
R3 0 N004 10k
.dc tmp235 0.1 2 0.05
.lib ADI1.lib
.backanno
.end
